US07893056B2
N1,N1-dimethyl-D-alaninamide, hydrochloride salt was prepared in a manner similar to Example 69, utilizing N-CBZ-D-alanine in place of N-CBZ-glycine, utilizing dimethylamine, hydrochloride salt in place of pyrrolidine, and using 3 equivalents of NMM.

reactant | N-CBZ-D-alanine | C(=O)(OCC1=CC=CC=C1)N[C@H](C)C(=O)O | C11H13NO4
reactant | dimethylamine, hydrochloride salt | Cl.CNC
reactant | NMM | 3 equivalents | CN1CCOCC1 | C5H11NO
product | N1,N1-dimethyl-D-alaninamide, hydrochloride salt | Cl.CN(C([C@H](N)C)=O)C | InChI=1S/C5H12N2O.ClH/c1-4(6)5(8)7(2)3;/h4H,6H2,1-3H3;1H/t4-;/m1./s1
